US07491743B2
To a mixture of 2-Amino-3-(5-chloro-benzo[b]thiophen-3-yl)-propionic acid (255.7 mg, 1.0 mmol) in methanol was added thionyl chloride (0.08 mL) at 0° C. The resulting mixture was heated at reflux for 7 h, allowed to cool to room temperature, diluted with saturated sodium bicarbonate and extracted with ethyl acetate (2×30 mL). The organic extracts were combined, washed with brine (25 mL), dried over anhydrous sodium sulfate, filtered, and concentrated to give a yellow oil (2-amino-3-(5-chloro-benzo[b]thiophen-3-yl)-propionic acid methyl ester).

reactant | 2-Amino-3-(5-chloro-benzo[b]thiophen-3-yl)-propionic acid | 1.0 mmol, 255.7 mg | NC(C(=O)O)CC=1C2=C(SC1)C=CC(=C2)Cl | C11H10ClNO2S
reactant | thionyl chloride | 0.08 mL | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | CO | CH4O
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 2-amino-3-(5-chloro-benzo[b]thiophen-3-yl)-propionic acid methyl ester | COC(C(CC=1C2=C(SC1)C=CC(=C2)Cl)N)=O | C12H12ClNO2S
